US04831041
A solution of 2-amino-3-(2-acetoxyacetamido-6-methylbenzyloxy)pyridine (0.63 g) and 1N sodium hydroxide solution (2 ml) in methanol (20 ml) was stirred at room temperature for 1 hour. The resulting precipitates were collected by filtration to give 2-amino-3-(2-hydroxyacetamido-6-methylbenzyloxy)pyridine.

reactant | 2-amino-3-(2-acetoxyacetamido-6-methylbenzyloxy)pyridine | 0.63 g | NC1=NC=CC=C1OC(C1=CC=CC=C1C)NC(COC(C)=O)=O | C17H19N3O4
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-amino-3-(2-hydroxyacetamido-6-methylbenzyloxy)pyridine | NC1=NC=CC=C1OC(C1=CC=CC=C1C)NC(CO)=O | C15H17N3O3
